US04051254
3-methyl-4-(n-butanesulfonamido)phenyl N-methylcarbamate
Butanesulfonyl chloride (2.6g., 0.017 mole) was added dropwise to a mixture of 3-methyl-4-aminophenyl N-methylcarbamate (3.0g., 0.017 mole), triethylamine (1.85g., 0.018 mole) and benzene (50 ml.). After refluxing for two hours, the reaction mixture was washed in a separatory funnel with water. The organic phase was dried with anhydrous magnesium sulfate and upon removal of the solvent the product was isolated as a dark oil (3.15g.).

reactant | Butanesulfonyl chloride | 0.017 mole, 2.6g | C(CCC)S(=O)(=O)Cl | C4H9ClO2S
reactant | 3-methyl-4-aminophenyl N-methylcarbamate | 0.017 mole, 3.0g | CNC(OC1=CC(=C(C=C1)N)C)=O | C9H12N2O2
reactant | triethylamine | 0.018 mole, 1.85g | C(C)N(CC)CC | C6H15N
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 3-methyl-4-(n-butanesulfonamido)phenyl N-methylcarbamate | CNC(OC1=CC(=C(C=C1)NS(=O)(=O)CCCC)C)=O | C13H20N2O4S
